US05753679
0.56 g (0.00238 mol) of 2-nitro-4-trifluoromethyl-benzoic acid was dissolved in 7 ml of thionyl chloride and boiled under reflux for 2 hrs. The reaction mixture was concentrated and the residue was taken up twice in toluene and evaporated to dryness each time. 0.53 g (94%) of 2-nitro-4-trifluoromethyl-benzoyl chloride was obtained as a yellow oil.

reactant | 2-nitro-4-trifluoromethyl-benzoic acid | 0.00238 mol, 0.56 g | [N+](=O)([O-])C1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C8H4F3NO4
reactant | thionyl chloride | 7 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-nitro-4-trifluoromethyl-benzoyl chloride | 0.53 g, 94% | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC(=C1)C(F)(F)F | C8H3ClF3NO3
